US07199265B2
Methyl[3,5-dichloro-4-(4-acetamido-3-bromophenoxy)phenyl] acetate (100 mg) was coupled with n-tributylphenyltin (140 mg, 0.38 mmol), using the same procedure as described in Example 3(a). This gave 70 mg (70%) of methyl(3,5-dichloro-4-[4-acetamido-3-phenylphenoxy]phenyl) acetate. A part of the obtained ester (50 mg) was hydrolysed using the method described in Example 1(i), to give 45 mg (95%) of 3,5-dichloro-4-(4-acetamido-3-phenylphenoxy)phenylacetic acid, m/z 430.

reactant | Methyl[3,5-dichloro-4-(4-acetamido-3-bromophenoxy)phenyl] acetate | 100 mg | C(C)(=O)OC1=C(C(=C(C(=C1)Cl)OC1=CC(=C(C=C1)NC(C)=O)Br)Cl)C | C17H14BrCl2NO4
reactant | methyl(3,5-dichloro-4-[4-acetamido-3-phenylphenoxy]phenyl) acetate | 70 mg | C(C)(=O)OC1=C(C(=C(C(=C1)Cl)OC1=CC(=C(C=C1)NC(C)=O)C1=CC=CC=C1)Cl)C | C23H19Cl2NO4
product | 3,5-dichloro-4-(4-acetamido-3-phenylphenoxy)phenylacetic acid | 45 mg, 95% | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)NC(C)=O)C1=CC=CC=C1)Cl)CC(=O)O | C22H17Cl2NO4
